US09302996B2
A mixture of 2-(4-bromophenyl)-5-(trifluoromethyl)-1H-imidazole (3 g), benzyl bromide (3.52 g), potassium carbonate (2.85 g) and N,N-dimethylformamide (30 mL) was stirred at room temperature overnight. To the reaction mixture were added water and ether, and the liquids were separated. The organic layer was separated, washed with water and then with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was dissolved in toluene, and purified by silica gel column chromatography (n-hexane:ethyl acetate=100:0 to 70:30) to obtain 1-benzyl-2-(4-bromophenyl)-4-(trifluoromethyl)-1H-imidazole (3.40 g).

reactant | 2-(4-bromophenyl)-5-(trifluoromethyl)-1H-imidazole | 3 g | BrC1=CC=C(C=C1)C=1NC(=CN1)C(F)(F)F | C10H6BrF3N2
reactant | benzyl bromide | 3.52 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 2.85 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | 1-benzyl-2-(4-bromophenyl)-4-(trifluoromethyl)-1H-imidazole | 3.40 g | C(C1=CC=CC=C1)N1C(=NC(=C1)C(F)(F)F)C1=CC=C(C=C1)Br | C17H12BrF3N2
